### PR TITLE
[Merged by Bors] - chore: generalize `IsBoundedBilinearMap` to seminormed spaces

### PR DESCRIPTION
**Pull request by eric-wieser**
The claim in `Mathlib/Analysis/NormedSpace/OperatorNorm/NormedSpace.lean` that

> This file contains statements about operator norm for which it really matters that the
> underlying space has a norm (rather than just a seminorm).

was not entirely true.

The main trick is to case on whether the norm of an element is zero, rather than on that element itself being zero.

Unfortunately this causes some minor elaboration issues downstream, but they are easy to work around.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/NormedSpace/OperatorNorm/Bilinear.lean [hunk 1]
```diff
@@ -409,6 +409,54 @@ theorem map_add_add (f : E →L[𝕜] Fₗ →L[𝕜] Gₗ) (x x' : E) (y y' : F
...
+is the product of the norms. -/
+@[simp]
+theorem norm_smulRight_apply (c : E →L[𝕜] 𝕜) (f : Fₗ) : ‖smulRight c f‖ = ‖c‖ * ‖f‖ := by
+  refine le_antisymm ?_ ?_
+  · refine opNorm_le_bound _ (mul_nonneg (norm_nonneg _) (norm_nonneg _)) fun x => ?_
+    calc
+      ‖c x • f‖ = ‖c x‖ * ‖f‖ := norm_smul _ _
+      _ ≤ ‖c‖ * ‖x‖ * ‖f‖ := mul_le_mul_of_nonneg_right (le_opNorm _ _) (norm_nonneg _)
+      _ = ‖c‖ * ‖f‖ * ‖x‖ := by ring
+  · obtain hf | hf := (norm_nonneg f).eq_or_gt
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/OperatorNorm/Bilinear.lean:422]: This line of the proof changed

File: Mathlib/Analysis/Normed/Operator/BoundedLinearMaps.lean [hunk 2]
```diff
@@ -471,9 +471,17 @@ theorem ContinuousOn.clm_apply {X} [TopologicalSpace X] {f : X → (E →L[𝕜]
     ContinuousOn (fun x ↦ f x (g x)) s :=
   isBoundedBilinearMap_apply.continuous.comp_continuousOn (hf.prod hg)
 
+
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Operator/BoundedLinearMaps.lean:474]:
```suggestion
```

**Review by YaelDillies — APPROVED** [review]
Sad to see elaboration issues crop up, but glad that this is generalisable.

maintainer merge

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
